US08202993B2
To a solution of 90 mg (0.32 mmol) of 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid ethyl ester in THF/EtOH/H2O (5 ml) at RT was added 23 mg of LiOH.H2O. The reaction mixture was stirred at 45° C. for one hour and then acidified with aqueous HCl 1M. The product was extracted with EtOAc and concentrated under vacuo to afford 34 mg (42%) of 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid as a white solid. ES-MS m/e (%): 251.3 (M−H+).

reactant | 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid ethyl ester | 0.32 mmol, 90 mg | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CN(C)C | C14H17ClN2O2
reactant | LiOH.H2O | 23 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF EtOH H2O | 5 ml | C1CCOC1.CCO.O
product | 5-chloro-7-dimethylaminomethyl-1H-indole-2-carboxylic acid | 34 mg, 42% | ClC=1C=C2C=C(NC2=C(C1)CN(C)C)C(=O)O | C12H13ClN2O2
